US04771058
3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine (0.713 g) was added dropwise to a stirred solution of 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.639 g) in methanol (25 ml) at room temperature. After 4 hours at room temperature, methanolic ammonia (25 ml) was added at 0°-5° C. with stirring, the mixture allowed to stand overnight, then evaporated in vacuo. The residue was chromatographed on silica in 10% CH3OH/CHCl3. The product was crystallised from ethanol to give 4-amino-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide (0.322 g, 32%) m.p. 204°-205° C.

reactant | 3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine | 0.713 g | BrC=1C=C(C(=NC1)NCCCN)C | C9H14BrN3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.639 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | ammonia | 25 ml | N | H3N
solvent | methanol | 25 ml | CO | CH4O
product | 4-amino-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide | 0.322 g, 32% | NC=1C(=NS(N1)=O)NCCCNC1=NC=C(C=C1C)Br | C11H15BrN6OS
